US07635715B2
A solution of 2-(4-chloro-3-fluorophenyl)-2-methylpropanoic acid (2.05 g, 9.46 mmol) in thionyl chloride (40.0 mL, 548 mmol) in a 500 mL round bottom flask was stirred at 95° C. for 2 hours. The reaction was concentrated in vacuo and azeotroped in toluene (50 mL) to give the crude acid chloride. A solution of diethyl malonate (1.43 mL, 9.46 mmol) in ACN (20 mL) was cooled to 0° C. MgCl2 (0.901 g, 9.46 mmol) and then TEA (2.76 mL, 19.9 mmol) were added, and the mixture was stirred at 25° C. for 2 hours. A solution of the acid chloride in ACN (30 mL) was added, and the mixture was stirred at 50° C. for 16 hours. The reaction was cooled, diluted with water (75 mL), and extracted with EtOAc (2×100 mL). The combined organic layers were washed with water (75 mL) and brine (75 mL). The organic layer was dried over MgSO4, concentrated, and dried in vacuo to give diethyl 2-(2-(4-chloro-3-fluorophenyl)-2-methylpropanoyl)malonate (2.95 g). MS m/e=359.4 (M+H)+.

reactant | 2-(4-chloro-3-fluorophenyl)-2-methylpropanoic acid | 9.46 mmol, 2.05 g | ClC1=C(C=C(C=C1)C(C(=O)O)(C)C)F | C10H10ClFO2
reactant | thionyl chloride | 548 mmol, 40.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | diethyl malonate | 9.46 mmol, 1.43 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | MgCl2 | 9.46 mmol, 0.901 g | [Mg+2].[Cl-].[Cl-]
solvent | ACN | 20 mL | C(C)#N | C2H3N
solvent | ACN | 30 mL | C(C)#N | C2H3N
solvent | water | 75 mL | O | H2O
product | diethyl 2-(2-(4-chloro-3-fluorophenyl)-2-methylpropanoyl)malonate | 2.95 g | ClC1=C(C=C(C=C1)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C)F | C17H20ClFO5
